US08222248B2
A mixture of benzyl 2-[4-((E)-2-methoxycarbonylvinyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylate (950 mg, 2.16 mmol) and 10% palladium on carbon (95 mg) in 100 mL of ethyl acetate/ethanol (1:1) was stirred under a hydrogen balloon for 18 h. The mixture was filtered through Celite to remove catalyst, and the solvent removed under reduced pressure to leave 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid. MS (m/z) 352.2 (M+1): Retention time=1.35 min (Method 10).

reactant | benzyl 2-[4-((E)-2-methoxycarbonylvinyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylate | 2.16 mmol, 950 mg | COC(=O)/C=C/C1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)OCC1=CC=CC=C1)C | C28H25NO4
catalyst | palladium on carbon | 95 mg | [Pd] | Pd
solvent | ethyl acetate ethanol | 100 mL | C(C)(=O)OCC.C(C)O
product | 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid | COC(=O)CCC1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)O)C | C21H21NO4
